US09290482B2
6-Chloro-3-(furo[2,3-c]pyridin-2-yl)imidazo[1,2-b]pyridazine
To a stirred solution of crude 2-(tributylstannyl)furo[2,3-c]pyridine (1.9 g) in THF (20 mL) in an inert atmosphere was added 3-bromo-6-chloroimidazo[1,2-b]pyridazine (676 mg, 2.9 mmol), copper (I) iodide (55 mg, 0.29 mmol) bis(triphenylphosphine) palladium(II)chloride (102 mg, 0.145 mmol) and triphenylphosphine (38 mg, 0.145 mmol). The mixture was heated to reflux for 2 h. The solvent was removed in vacuum. The residue was dissolved in a mixture of dichloromethane and methanol, filtered through an aminophase-silica-gel column and the solvent was removed in vacuum. Silicagel chromatography gave a solid that was triturated with a mixture of ethyl acetate and hexane to give 343 mg of the title compound, which was used without further purification.

reactant | 2-(tributylstannyl)furo[2,3-c]pyridine | 1.9 g | C(CCC)[Sn](C1=CC=2C(=CN=CC2)O1)(CCCC)CCCC
reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | 2.9 mmol, 676 mg | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | triphenylphosphine | 0.145 mmol, 38 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | 0.29 mmol, 55 mg | [Cu]I
product | 6-Chloro-3-(furo[2,3-c]pyridin-2-yl)imidazo[1,2-b]pyridazine | 343 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C(=CN=CC1)O2 | C13H7ClN4O
